US07595325B2
N-[4-(4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl )-6-methyl-pyridin-2-yl]-2-fluoro-benzenesulfonamide
2-Fluoro-benzenesulfonyl chloride (68.9 mg, 035 mmol) was added to a solution of (4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(2-amino-6-methyl-pyridin-4-yl)-methanone (100 mg, 0.32 mmol) in pyridine (2 mL). The mixture was stirred for 2 h at room temperature. The reaction mixture was quenched with H2O (2 mL) and concentrated in vacuo. The resulting residue was triturated with MeOH, filtered, and dried. Purification by flash column chromatography [ethyl acetate/hexanes 3:7—(20% NH4OH/MeOH)/ethyl acetate/hexanes 5:65:30] afforded the title compound as a yellow oil (94 mg, 62%). MS: 469.3 (MH+); HPLC Rf: 4.46 min. (HPLC method 4).

reactant | 2-Fluoro-benzenesulfonyl chloride | 68.9 mg | FC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | (4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(2-amino-6-methyl-pyridin-4-yl)-methanone | 0.32 mmol, 100 mg | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=NC(=C2)C)N)C(C)C | C16H18N6O
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-(4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl )-6-methyl-pyridin-2-yl]-2-fluoro-benzenesulfonamide | 94 mg, 62% | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=NC(=C2)C)NS(=O)(=O)C2=C(C=CC=C2)F)C(C)C | C22H21FN6O3S
